US08202865B2
Step 4: 2-(hydroxymethyl)-2′-methylbiphenyl-4-carboxylic acid
Sodium hydroxide (5M; 12.1 mL; 60.3 mmol; 3 eq.) was added to a solution of methyl 2-[(acetyloxy)methyl]-2′-methylbiphenyl-4-carboxylate (6 g; 20 mmol; 1 eq.) in EtOH (180 mL) and the reaction mixture was stirred at 60° C. for 2 hours. After concentration in vacuo, the residue was taken up in water (500 mL) and washed with EtOAc (2×100 mL). The aqueous phase was acidified to pH 2 with conc. HCl and extracted with EtOAc (2×100 mL). The combined organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound as a yellow solid (3.46 g, 71%). 1H NMR (DMSO-d6, 300 MHz) δ 12.97 (br s, 1H), 8.20-8.19 (m, 1H), 7.87-7.84 (dd, J=8.0 Hz, 1.86 Hz, 1H), 7.37-7.06 (m, 5H), 5.23-5.19 (m, 1H), 4.25-4.09 (m, 2H), 2.01 (s, 3H). LC/MS (Method A): 241.2 (M−H)−. HPLC (Method A) Rt 3.77 min (purity 96.1%).

reactant | Sodium hydroxide | 60.3 mmol, 5M, 12.1 mL, 3 eq. | [OH-].[Na+]
reactant | methyl 2-[(acetyloxy)methyl]-2′-methylbiphenyl-4-carboxylate | 20 mmol, 6 g, 1 eq. | C(C)(=O)OCC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C | C18H18O4
solvent | EtOH | 180 mL | CCO | C2H6O
product | 2-(hydroxymethyl)-2′-methylbiphenyl-4-carboxylic acid | 3.46 g, 71% | OCC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC=C1)C | C15H14O3
